scheMAGIC Simulator document a02f3e2100e67f55
* document-hash a02f3e2100e67f55
V1 n1 0 DC 15 $ component:c1
V2 n2 0 DC -15 $ component:c2
V3 n3 0 SIN(0 1 10k) $ component:c3
X4 n3 n4 n5 OC_IDEAL_OPAMP $ component:c4
R5 n4 n5 100k $ component:c5
R6 n4 0 10k $ component:c6
R7 n5 0 10k $ component:c7
.subckt OC_IDEAL_OPAMP INP INN OUT
EGAIN OUT 0 INP INN 1000000
.ends OC_IDEAL_OPAMP
.save all v1#branch v2#branch v3#branch @r5[i] @r6[i] @r7[i]
.tran 1e-7 0.0005 0 5e-7
.end
